US06544985B2
(2-Amino-4-chloro-5-piperidin-1-yl-phenyl)-carbamic acid tert.-butyl ester
The title compound was prepared from (4-chloro-2-nitro-5-piperidin-1-yl-phenyl)-carbamic acid tert.-butyl ester (Example C12) by reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as light brown solid (747 mg).

reactant | (4-chloro-2-nitro-5-piperidin-1-yl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCCC1)Cl)[N+](=O)[O-])=O | C16H22ClN3O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | (2-Amino-4-chloro-5-piperidin-1-yl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCCC1)Cl)N)=O | C16H24ClN3O2
